### PR TITLE
Prove part of Lemma 10.2.5

### PR DESCRIPTION
**Pull request by DennisTsar**

### CODE REVIEW

File: Carleson/TwoSidedCarleson/WeakCalderonZygmund.lean [hunk 1]
```diff
@@ -130,33 +130,77 @@ lemma cardinalMk_czBall3_le (ha : 4 ≤ a) {hf : BoundedFiniteSupport f} {hX : G
...
-    { i | y ∈ czBall3 ha hf hX i}.Finite :=
-  sorry
+    { i | y ∈ czBall3 ha hf hX i}.Finite := by
+  rw [← Cardinal.lt_aleph0_iff_set_finite]
+  exact lt_of_le_of_lt (cardinalMk_czBall3_le ha hy) (Cardinal.nat_lt_aleph0 _)
 
 /-- `Q_i` in the proof of Lemma 10.2.5 (general case). -/
 def czPartition (ha : 4 ≤ a) (hf : BoundedFiniteSupport f) (hX : GeneralCase f α) (i : ℕ) : Set X :=
-  czBall3 ha hf hX i \ ((⋃ j < i, czPartition ha hf hX j) ∪ ⋃ j > i, czBall ha hf hX i)
+  czBall3 ha hf hX i \ ((⋃ j < i, czPartition ha hf hX j) ∪ ⋃ j > i, czBall ha hf hX j)
```
Comment (DennisTsar) [inline Carleson/TwoSidedCarleson/WeakCalderonZygmund.lean:139]: I believe this was a typo.

Comment (fpvandoorn) [reply Carleson/TwoSidedCarleson/WeakCalderonZygmund.lean:139]: Yes, thanks for fixing
